US07034039B2
Tert-butyl[6-(aminothiocarbonyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate (3.26 g, 7 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (20 ml) and the mixture was stirred at room temperature for 1 h. The reaction mixture was concentrated under reduced pressure and the residue was suspended in tetrahydrofuran (20 ml). To the obtained mixture were added triethylamine (2.0 ml, 14 mmol) and 9-fluorenylmethyl chloroformate (2.72 g, 10.5 mmol) and the mixture was stirred with heating at 0° C. for 1 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 9H-fluoren-9-ylmethyl[6-(aminocarbothioyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate (3.21 g, 78.1%) as an amorphous.

reactant | Tert-butyl[6-(aminothiocarbonyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 7 mmol, 3.26 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C(=S)N)=O)CC(C)C)=O | C26H31N3O3S
reactant | triethylamine | 14 mmol, 2.0 ml | C(C)N(CC)CC | C6H15N
reactant | 9-fluorenylmethyl chloroformate | 10.5 mmol, 2.72 g | ClC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C15H11ClO2
reactant | water | O | H2O
solvent | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 9H-fluoren-9-ylmethyl[6-(aminocarbothioyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 3.21 g, 78.1% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C(=S)N)=O)CC(C)C)=O | C36H33N3O3S
